US07157447B2
(R)-N-(2-(2-(Aminomethyl)-5-oxopyrrolidin-1-yl)-4-fluorobenzyl)-3-hydroxy-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared by hydrogenolysis (H2, 110% Pd—C) of intermediate 195, (R)-N-(2-(2-(azidomethyl)-5-oxopyrrolidin-1-yl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide. 1H NMR (400 MHz, MeOD) δ ppm: 7.54 (1H, dd, J=7.0 Hz), 7.25–7.13 (2H, m), 4.62 (2H, m), 4.17 (1H, d, J=15.6 Hz), 4.07 (2H, m), 3.99 (2H, m,), 3.23 (2H, d, J=3.1 Hz), 2.79–2.59 (3H, m), 2.14 (1H, m), 1.66 (6H, s). HRMS calcd for C22H27N5O5F: 460.1996. found 460.2014.

reactant | (R)-N-(2-(2-(azidomethyl)-5-oxopyrrolidin-1-yl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | N(=[N+]=[N-])C[C@@H]1N(C(CC1)=O)C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC(=C1)F | C29H30FN7O5
catalyst | Pd—C | [Pd] | Pd
product | (R)-N-(2-(2-(Aminomethyl)-5-oxopyrrolidin-1-yl)-4-fluorobenzyl)-3-hydroxy-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | NC[C@@H]1N(C(CC1)=O)C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2O)=O)(C)C)C=CC(=C1)F | C22H26FN5O5
